US04173711
Camphor Gum:
Thymol--10% in Diethyl Phthalate: 2%

reactant | Thymol | C1=C(C)C=CC(C(C)C)=C1O | C10H14O
reactant | Diethyl Phthalate | C(C=1C(C(=O)OCC)=CC=CC1)(=O)OCC | C12H14O4
product | Camphor Gum | C[C@@]12CC[C@H](C1(C)C)CC2=O | C10H16O
